US04791106
To a solution of 31.4 ml (360 mmol) of morpholine in 500 ml of diethyl ether were added slowly 10 g (71.94 mmole) of 3-bromopropanol and the mixture was stirred for one hour at room temperature. The reaction mixture was evaporated under vacuum and 300 ml of methylene chloride and 400 ml of a saturated aqueous solution of sodium bicarbonate were added. The mixture was shaken and the organic layer was separated and washed twice with 300-ml portions of saturated aqueous sodium bicarbonate. The organic layer was separated, dried over sodium sulfate and evaporated to yield 10.3 g of 3-morpholinopropanol.

reactant | morpholine | 360 mmol, 31.4 ml | N1CCOCC1 | C4H9NO
reactant | 3-bromopropanol | 71.94 mmole, 10 g | BrCCCO | C3H7BrO
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 3-morpholinopropanol | 10.3 g | O1CCN(CC1)CCCO | C7H15NO2
